US05202330
a) 1,6-Dihydro-2-[[(4-methoxyphenyl)methyl]thio]-4-methyl-6-(3-nitrophenyl)-1-[(4-methoxyphenyl)carbonyl]-5-pyrimidinecarboxylic acid, ethyl ester
A solution of 1.5 g. (0.0034 mole) of 1,4-dihydro-2-[[(4-methoxyphenyl)methyl]thio]-6-methyl-4-(3-nitrophenyl)-5-pyrimidinecarboxylic acid, ethyl ester in 10 ml. of dichloromethane containing 0.6 ml. (0.0074 mole) of pyridine is treated gradually with a solution of 0.70 g (0.0041 mole) of p-anisoyl chloride in 10 ml. of dichloromethane. After stirring for 16 hours at room temperature, dichloromethane is added and the solution is washed with water, 1N hydrochloric acid, sodium bicarbonate and brine. The dried solution is evaporated to give 1.8 g. of an impure oil. Flash chromatography using ethyl acetate/hexane (1:3) gives 1.58 g. of yellow oil.

reactant | 1,4-dihydro-2-[[(4-methoxyphenyl)methyl]thio]-6-methyl-4-(3-nitrophenyl)-5-pyrimidinecarboxylic acid, ethyl ester | 0.0034 mole | COC1=CC=C(C=C1)CSC=1NC(=C(C(N1)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC)C | C22H23N3O5S
reactant | dichloromethane | 0.6 ml | ClCCl | CH2Cl2
reactant | pyridine | 0.0074 mole | N1=CC=CC=C1 | C5H5N
reactant | p-anisoyl chloride | 0.0041 mole, 0.70 g | C(C1=CC=C(C=C1)OC)(=O)Cl | C8H7ClO2
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 1,6-Dihydro-2-[[(4-methoxyphenyl)methyl]thio]-4-methyl-6-(3-nitrophenyl)-1-[(4-methoxyphenyl)carbonyl]-5-pyrimidinecarboxylic acid, ethyl ester | COC1=CC=C(C=C1)CSC=1N(C(C(=C(N1)C)C(=O)OCC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)C1=CC=C(C=C1)OC | C30H29N3O7S
